Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
laparoscopic-assisted total vaginal hysterectomy converted to 
laparotomy via pfannensteil incision, total abdominal 
hysterectomy, left salpingo-oophorectomy, right salpingectomy, 
cystoscopy

 
History of Present Illness:
___ yo G4P2 LMP ___ here with 2+ weeks of vaginal bleeding. Pt
is sp endometrial ablation in ___.  States menses never ceased,
however, notes increase in VB starting last ___.  bleeding
typically lasts 5 days, however, menses with large clots.  Over
the past 2 weeks, daily bleeding using on average 4 pads daily. 
Denies lightheadedness but asking for iron tabs ___ anemia. 
Patient asking for hysterectomy.

Denies change in discharge.  Sexually active without any issues.

PATHOLOGIC DIAGNOSIS:
1. Endometrial biopsy:
Fragments of benign endometrium and endocervix.
FINDINGS: 
 
The uterus is anteverted, enlarged due to a large uterine 
fibroid
and measures
13.4 x 8.2 x 10.1 cm. The endometrium is homogenous, displaced
anteriorly by
the uterine fibroid and measures 5 mm.  There has been interval
increase in
size in a 9.0 x 7.2 x 8.7 cm fibroid in the uterine fundus that
previously
measured 2.3 x 1.6 x 2.0 cm.
 
The ovaries are normal. There is no free fluid.
 
IMPRESSION: 
 
Significant interval increase in size of a fibroid within the
uterine fundus.
 

 
Past Medical History:
*S/P ENDOMETRIAL ABLATION                             ___   

ALLERGIES: PENICILLIN (RASH)                                    

BILATERAL TUBAL LIGATION                              ___   
at ___.                                                        

DIASTOLIC HYPERTENSION                                          
                                                          
H PLORI                                                         

HEALTH MAINTENANCE                                              
___ dv & dEPRESSION SCREENING NEG. Colonscopy ___ - nl. G3P2: 
Daughters, ___ born by c/section in ___, ___ born in    
___, molar pregnancy in ___.                                  

HEART MURMUR                                                    
echo ___  trivial MR                                          

HYPERCHOLESTEROLEMIA                                            

HYPERTENSION                                                    

IUD                                                   ___      

LEFT BREAST NODULE                                              
pain ___, ___ showed 5 mm nodule looks benign ? ln ref to   
breast clinic no  ___ breast clinic                              

MILD LOW TENSION GLUACOMA SUSPECT                     ___      
followed by Dr. ___.                                      

RIGHT POSTERIOR CERVICAL LYMPHADENOPATHY              ___   
                         
S/P FAILED TUBAL LIGATION                             ___      
subseq.  tab ___                                 

VARICOSE VEINS                                                  

VITAMIN D DEFICIENCY                                            
___ tx'd.                                                    

H/O MOLAR PREGNANCY                                   ___      
                                    

 
Social History:
___
Family History:
Relative  Status    ___ Problem              Comments           
Other                   ___ CANCER         Colonscopy ___ -  
                                             ___. due again ___ 
                                             ___ dx'd ___ at
                                             ___ ___. ___      
                                             maternal GM and    
                                             ___ maternal aunt
                                             ___      
                                             ___. matGM and  
                                             ___ aunt found to  
                                             ___ multiple      
                                             ___ on          
                                             colonscopy.        
                        FAMILY HISTORY       ___ See ___     
                                             ___ Cancer on    
                                             ___ list. DM -    
                                             ___ ___       
                                             borderline. HTN -  
                                             ___,     
                                             matAunt; patGM DVT 
                                             ___ surg.         


 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
clean, dry, intact
Ext: no TTP
 
Pertinent Results:
___ 07:05AM BLOOD WBC-9.9 RBC-3.25* Hgb-9.3* Hct-27.9* 
MCV-86 MCH-28.6 MCHC-33.3 RDW-14.1 RDWSD-44.3 Plt ___
___ 03:50PM BLOOD WBC-10.2* RBC-4.06 Hgb-11.5 Hct-35.2 
MCV-87 MCH-28.3 MCHC-32.7 RDW-13.9 RDWSD-43.8 Plt ___
___ 07:05AM BLOOD Glucose-131* UreaN-10 Creat-0.9 Na-141 
K-3.6 Cl-102 HCO3-28 AnGap-15
___ 03:50PM BLOOD Glucose-170* UreaN-8 Creat-0.9 Na-136 
K-3.2* Cl-99 HC___ AnGap-17
___ 07:05AM BLOOD Calcium-8.1* Phos-2.2* Mg-1.6
___ 03:50PM BLOOD Calcium-7.8* Phos-3.9 Mg-1.6
___ 11:48AM BLOOD Hgb-9.2* calcHCT-28
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
___ undergoing planned laparoscopic assisted vaginal 
hysterectomy converted to laparotomy via pfannensteil incision, 
total abdominal hysterectomy, left salpingo-oophorectomy, right 
salpingectomy, and cystoscopy for abnormal uterine bleeding and 
fibroids. Please see the operative report for full details.  Of 
note, her estimated blood loss was 1500 cc's, and she received 2 
units of pRBCs intraoperatively.  Her hematocrit in the PACU was 
35.2.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with a Dilaudid PCA, PO 
Tylenol, and IV toradol.  Her diet was advanced without 
difficulty, and she was transitioned to PO Tylenol, 
acetaminophen, and oxycodone on post operative day 1.  On post 
operative day 1, her urine output was adequate, so her foley was 
removed and she voided spontaneously.  Her hematocrit on post 
operative day 1 was 27.9, which was considered to be an 
appropriate drop from pre-op in the setting of her large EBL.  
Her vitals were stable, and her exam was reassuring, so there 
was no concern for ongoing bleeding.
She was continued on her home medications for her hypertension 
while she was in house.
By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with instructions for outpatient follow-up.

 
Medications on Admission:
HCTZ 25', ibuprofen, provera 5mg, metoprolol ER 50', omeprazole, 
oxycodone, vit C, vid D, docusate, iron

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*40 Tablet Refills:*0 
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding, fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service ___ your 
procedure. You ___ recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you ___ steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___